US07585880B2
methyl 3-[4-({4-[((3-methylbutyl){4-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2-yl}amino)methyl]-benzyl}oxy)phenyl]propanoate
To a solution of N-(3-methylbutyl)-4-[4-(trifluoromethyl)phenyl]-1,3-thiazole-2-amine (500 mg, 1.59 mmol) in N,N-dimethylformamide (10 mL) was added 60% sodium hydride (63.6 mg, 1.59 mmol) and the mixture was stirred for 30 min. Methyl 3-(4-{[4-(chloromethyl)benzyl]oxy}phenyl)propanoate (462 mg, 1.45 mmol) was added and the obtained mixture was stirred at room temperature for 13 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=5:95-40:60) to give the title compound (490 mg, yield 57%) as a yellow oil.

reactant | N-(3-methylbutyl)-4-[4-(trifluoromethyl)phenyl]-1,3-thiazole-2-amine | 1.59 mmol, 500 mg | CC(CCNC=1SC=C(N1)C1=CC=C(C=C1)C(F)(F)F)C | C15H17F3N2S
reactant | sodium hydride | 1.59 mmol, 63.6 mg | [H-].[Na+]
reactant | Methyl 3-(4-{[4-(chloromethyl)benzyl]oxy}phenyl)propanoate | 1.45 mmol, 462 mg | ClCC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C18H19ClO3
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | methyl 3-[4-({4-[((3-methylbutyl){4-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2-yl}amino)methyl]-benzyl}oxy)phenyl]propanoate | 490 mg, yield 57% | CC(CCN(C=1SC=C(N1)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1)C | C33H35F3N2O3S
